US05736564
k) Methyl trifluoromethylsulfonyloxyacetate
To a solution of triflic anhydride (3.7 ml, 20.0 mmol) in methylene chloride (10 ml) at -5° C. under argon, was added dropwise over 30 minutes a solution of methyl glycolate (1.8 g, 20.0 mmol), pyridine (1.55 ml, 20.0 mmol), and anhydrous methylene chloride (5 ml). The reaction was allowed to stir at between 0°-5° C. for 1.5 h. The mixture was then washed with water several times. The organic extract was then washed with water, brine, and dried (MgSO4). After removing the solvent under reduced pressure, flash chromatography of the residue (silica gel, methylene chloride) afforded the title compound as a colorless oil (3.0 g, 68%).

reactant | triflic anhydride | 20.0 mmol, 3.7 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl glycolate | 20.0 mmol, 1.8 g | C(CO)(=O)OC | C3H6O3
reactant | pyridine | 20.0 mmol, 1.55 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Methyl trifluoromethylsulfonyloxyacetate | 3.0 g, 68% | FC(S(=O)(=O)OCC(=O)OC)(F)F | C4H5F3O5S
